US05804583
5-Butyl-3-methyl-6-[[2'-methoxycarbonylbiphenyl-4-yl)methyl]imidazo[1,2-a]pyrimidin-7-one.
A solution of 0.3 g of 2-amino-6-butyl-5-[(2'-methoxycarbonylbiphenyl-4-yl) methyl]pyrimidin-4-one in 6 ml of DMF is added under stirring with 61 μl of chloroacetone. After 18 h under stirring at 100° C., the solvent is evaporated under reduced pressure. The residue is taken up into water to separate a solid which is filtered and purified by FC (eluent CH2Cl2 --CH3OH 97:3), to obtain 90 mg of a spongy solid (27% yield).

reactant | 2-amino-6-butyl-5-[(2'-methoxycarbonylbiphenyl-4-yl) methyl]pyrimidin-4-one | 0.3 g | NC1=NC(=C(C(N1)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC)CCCC | C23H25N3O3
reactant | chloroacetone | 61 μl | ClCC(C)=O | C3H5ClO
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | 5-Butyl-3-methyl-6-[[2'-methoxycarbonylbiphenyl-4-yl)methyl]imidazo[1,2-a]pyrimidin-7-one | 27% yield | C(CCC)C1=C(C(N=C2N1C(C=N2)C)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C(=O)OC | C26H27N3O3
